US07906517B2
2-Fluoro-5-trifluoromethyl-benzaldehyde (5.38 g) and cyclopropylmethyl-propyl-amine (4.75 g) are dissolved in toluene (50 ml), and thereto is added potassium carbonate (11.6 g) and the mixture is stirred at 120° C. for 4 hours. The reaction solution is cooled to room temperature, and thereto is added water and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde (8.0 g). MS (m/z): 286 [M+H]+

reactant | 2-Fluoro-5-trifluoromethyl-benzaldehyde | 5.38 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | cyclopropylmethyl-propyl-amine | 4.75 g | C1(CC1)CNCCC | C7H15N
reactant | potassium carbonate | 11.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(cyclopropylmethyl-propyl-amino)-5-trifluoromethyl-benzaldehyde | 8.0 g | C1(CC1)CN(C1=C(C=O)C=C(C=C1)C(F)(F)F)CCC | C15H18F3NO
